US07091214B2
N-(2-Bromophenyl)malonamic acid (43 g, 170 mmol), polyphosphoric acid (334 mL of 0.5 M), and hydrochloric acid (444 mL of 1 N) were combined and heated at 140° C. for three hours. The solution was allowed to cool to ambient temperature, and additional hydrochloric acid (603 mL of 1 N) was added. The reaction was stirred for four hours and then adjusted to pH 4 with the addition of 20% aqueous sodium hydroxide. A precipitate formed and was isolated by filtration, washed with water, and dried to provide 37.4 g of 8-bromoquinoline-2,4-diol as a solid.

reactant | N-(2-Bromophenyl)malonamic acid | 170 mmol, 43 g | BrC1=C(C=CC=C1)NC(CC(=O)O)=O | C9H8BrNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 1 N, 603 mL | Cl | ClH
solvent | hydrochloric acid | 1 N, 444 mL | Cl | ClH
product | 8-bromoquinoline-2,4-diol | 37.4 g | BrC=1C=CC=C2C(=CC(=NC12)O)O | C9H6BrNO2
